* c:\users\vatsal\esim-workspace\8t_sram\8t_sram.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m5 gnd writtenbit net-_m3-pad2_ gnd CMOSN W=100u L=100u M=1
m3 net-_m3-pad1_ net-_m3-pad2_ writtenbit net-_m3-pad1_ CMOSP W=100u L=100u M=1
m7 net-_m3-pad2_ writeenable bitbar gnd CMOSN W=100u L=100u M=1
m8 net-_m3-pad2_ bitbar net-_m8-pad3_ gnd CMOSN W=100u L=100u M=1
m4 gnd net-_m3-pad2_ writtenbit gnd CMOSN W=100u L=100u M=1
m1 writtenbit bitline net-_m1-pad3_ gnd CMOSN W=100u L=100u M=1
m2 writtenbit writeenable bitline gnd CMOSN W=100u L=100u M=1
m6 net-_m3-pad1_ writtenbit net-_m3-pad2_ net-_m3-pad1_ CMOSP W=100u L=100u M=1
v5  net-_m8-pad3_ gnd 1.8
v2  writeenable gnd 1.8
v4  net-_m3-pad1_ gnd 1.8
v3  net-_m1-pad3_ gnd 1.8
* u1  writtenbit plot_v1
* u3  writeenable plot_v1
* u2  bitline plot_v1
* u4  bitbar plot_v1
v1  bitline gnd pulse(0 1.8 0 0 0 10n 20n)
v6  bitbar gnd pulse(1.8 0 0 0 0 10n 20n)
.tran 250e-12 20e-09 0e-06

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(writtenbit)
plot v(writeenable)
plot v(bitline)
plot v(bitbar)
.endc
.end
